Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia and palpitations, sent in from PCP's office

 
Major Surgical or Invasive Procedure:
Upper endoscopy

 
History of Present Illness:
 Ms. ___ is a ___ woman with a pmhx. significant for 
gastric antral vascular ectasia (GAVE or watermelon stomach) 
with resultant iron deficiency anemia, chronic neck pain, and 
lower extremity edema who presents from her PCP's office with 
palpitations, decreased hct, and worsening lower extremity 
edema.  She was found to have a hct drop of 27 to 24.2, was 
guiac positive, and was referred to the ED for further 
evaluation.
 
Ms. ___ presented to ___ on ___ complaining of DOE, 
fatigue, and palpitations.  She was subsequently found to have a 
hct of 14.3, and was transfused 4 units of PRBCs.  An endoscopy 
at that time was significant for GAVE, which was treated with 
argon coagulation.  Ms. ___ was discharged home feeling 
better, with a hct in the high ___.  She was also found to be 
iron deficient, likely due to bleeding from GAVE, and was 
started on ferrous sulfate.

Ms. ___ states that she has been feeling well since 
___, though lately her palpiations have increased in 
frequency.  She is unable to quantify exactly how many 
palpiations she has per day, but does note that they are not as 
frequent as they were when she first presented to the hospital 
in ___.  The patient also endorses increased lower 
extremity swelling, worsening over the past few days.  She 
denies chest pain, shortness of breath (at rest or with 
exertion), change in diet or other lifestyle habits, nausea, 
vomiting, diarrhea, fevers or chills.  Ms. ___ says she 
adheres to a strict 2gram/day sodium diet.  She has not noticed 
any decrease in her exercise tolerance.  She has lost about 3 
pounds since her last hospital admission.

In the ED, initial vitals were: 99.8,75,168/98, 20, 99% on RA.  
Patient was given 40mg IV PPI and admitted for further 
evaluation.  On transfer, vitals were: 98.4, 76, 150/90, 18, 95% 
on RA.
  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness. Denied nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denied arthralgias or myalgias. 
 
Past Medical History:
--GAVE (last endoscopy on ___, without active bleeding)
--Iron deficiency anemia
--Lower extremity edema (minimally response to 40 mg furosemide, 
Echo in ___ with EF>75%)
--Chronic neck pain extending to knees (began ___ ___ ago after 
mother's death, currently managed with ___ x3 and tramadol but 
not well controlled)
--Sleep apnea
--Pulmonary HTN (Echo in ___: Moderate to severe pulmonary 
hypertension. Right ventricular dilation and mild dysfunction)
--Depression following mother's death ___ ___ ago)

 
Social History:
___
Family History:
- Father deceased at ___, history of angina, obesity
- Mother deceased ___, stroke at ___ & ___, dementia
- Sister deceased at ___, glioblastoma
- Two maternal aunts with colon cancer diagnosed in ___
- Daughter with ulcerative colitis.

 
Physical Exam:
Physical Exam At Admission
VS: 98.9 97.7 122/64 (110-168/64-98) 70 (39-76) 18 (___) 97%RA
GA: AOx3, pleasant, obese female, laying stiffly in bed. 
HEENT: Pale sclerae. PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards: No RVH. RRR S1/S2 heard. Holosystolic murmur heard best 
at left sternal border. No gallops/rubs.
Pulm: CTAB no crackles or wheezes
Abd: Protuberant. Soft, NT, +BS. no g/rt. neg HSM. neg ___ 
sign.
Extremities: WWP, 2+ pitting edema until mid tibia. Radials 2+, 
DPs 2+.
Skin: No abnormal lesions noted on limited skin exam.

Physical Exam at Discharge
VS: Tmx 99.5 Tcur 96.9 142/80 79 18 98%RA
GA: AOx3, pleasant, obese female
HEENT: Pale sclerae. PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards: No RVH. RRR S1/S2 heard. Holosystolic murmur heard best 
at left sternal border. No gallops/rubs.
Pulm: CTAB no crackles or wheezes
Abd: Protuberant. Soft, NT, +BS. no g/rt. neg HSM. neg ___ 
sign.
Extremities: WWP, 2+ pitting edema until mid tibia. Radials 2+, 
DPs 2+.
Skin: No abnormal lesions noted on limited skin exam
 
Pertinent Results:
___ 03:49PM BLOOD Glucose-91 UreaN-13 Creat-0.5 Na-139 
K-3.7 Cl-101 HCO3-28 AnGap-14
___ 03:49PM BLOOD WBC-7.3 RBC-3.46* Hgb-7.5* Hct-24.2* 
MCV-70* MCH-21.7* MCHC-31.0 RDW-17.1* Plt ___
___ 05:28AM BLOOD WBC-5.5 RBC-3.28* Hgb-6.9* Hct-22.9* 
MCV-70* MCH-21.1* MCHC-30.3* RDW-17.2* Plt ___
___ 05:28AM BLOOD calTIBC-313 Hapto-286* Ferritn-4.9* 
TRF-241
___ 07:00AM BLOOD Hct-28.2*
.
___ 03:49PM BLOOD cTropnT-<0.01
___ 05:28AM BLOOD CK-MB-3 cTropnT-<0.01
.
___ 05:28AM BLOOD LD(LDH)-134 CK(CPK)-35
___ 03:49PM BLOOD ALT-8 AST-12 LD(LDH)-153 AlkPhos-107* 
TotBili-0.3
.
CXR (___): The lungs are well expanded and clear. The 
cardiomediastinal silhouette shows a hiatal hernia. The hilar 
contours and 
pleural surfaces are normal. No pleural effusions or 
pneumothoraces are 
present. No acute intrathoracic process. 
.
Upper Endoscopy (___):
1. Normal mucosa in the esophagus.
2. Multiple angioectasia in a watermelon pattern noted in 
stomach, consistent with GAVE. Obliterated with APC. 
3. Normal mucosa in the duodenum.
Recommendations: Repeat EGD in 2 months
.
 
Brief Hospital Course:
TASKS FOR OUTPATIENT ___:
-- PCP ___
-- GI ___, recommend EGD in 2 months

ASSESSMENT/PLAN:  This is a ___ woman with a history 
signficant for gastric antral vascular ectasia (GAVE), lower 
extremity edema, pulmonary HTN, and chronic neck & back pain who 
was admitted for anemia, GI bleeding, palpitations, and 
worsening edema likely due to continued bleeding from vascular 
ectasia.

# FE DEFICIENCY ANEMIA SECONDARY TO GAVE: The patient's was 
found to have drop in her baseline Hct (22 on admission), in the 
setting of palpitations, and guaiac positive stools. Her anemia 
was presumed to be due continued bleeding from her known 
vascular ectasia and was verified with upper endoscopy 
demonstrating multiple angioectasia in a watermelon pattern that 
were then obliterated with argon plasma coagulation. The patient 
received 1 unit PRBCs, after which her Hct responded 
appropriately and she remained hemodynamically stable. Iron 
studies demonstrated Fe 11, Ferritin 4.9, TIBC 313. She was also 
started on folic acid and Vitamin B12, and continued on her home 
dosages of omeprazole and iron supplementation. At discharge, 
patient had a Hct 28.2, was asymptomatic without complaints of 
palpitations and had no evidence of blood in her stool. 
  
# LOWER EXTREMITY EDEMA: The patient's chronic lower extremity 
edema is likely due to her known pulmonary HTN. Evidence of 
dilated RV, hyperdynamic LV function and moderate to severe 
pulmonary hypertension on ECHO in ___. Cardiac, hepatic and 
renal etiologies of her edema were unlikely. She had bilateral 
edema, without evidence of pulmonary congestion on exam or CXR 
at admission, or an elevated JVP. Her liver transaminases at 
admission and last serum albumin in ___ were both within 
normal limits. Additionally, she has not had any evidence of 
proteinuria in the past. The acute worsening likely due 
inactivity secondary to her chronic neck and back pain. Patient 
was continued on home dosage of lasix, maintained on a 2 gm/day 
sodium diet, and encouraged to keep her legs elevated.
  
# CHRONIC PAIN: Stable throughout hospitalization with no acute 
issues. Patient was continued on her home dosage of toradol.
 
Communication was maintained with the patient and she remained 
full code throught her hospitalization.

 
Medications on Admission:
1. Vitamin D ___ units weekly
2. Calcium 500 mg + Vitamin D 400 units BID
3. Omeprazole 20mg BID
4. Ferrous sulfate 325 BID
5. Tramadol 100mg BID
6. Sucralfate 1gram BID
7. Furosemide 40mg QD

 
Discharge Medications:
1. tramadol 50 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
2. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. cyanocobalamin (vitamin B-12) 100 mcg Tablet Sig: 0.5 Tablet 
PO DAILY (Daily).
Disp:*15 Tablet(s)* Refills:*2*
6. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO twice a day.  
7. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Blood Loss Anemia
Gastric Antral Vascular Ectasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted to ___ with palpitations and found to have a 
drop in your blood count likely from GAVE.  You were transfused 
one unit of blood.  You had an endoscopy which showed bleeding 
in your stomach from the GAVE and it was treated with argon 
therapy (the same as last time you were here).  Your blood count 
increased after the transfusion and stayed stable.

No changes were made to your medication, you should continue all 
your home medication as previously directed.

Please be sure to keep all your follow up appointments as below. 
 You do not need the endoscopy schedule on the ___ since you 
had one here. Dr. ___ has been emailed and will cancel it for 
you.

It was a pleasure meeting you and participating in your care.
 
Followup Instructions:
___